US07265120B2
Under ice-cooling, 12N aq. NaOH (0.9 ml) was added dropwise to a solution of 6-{5-amino-3-phenyl-6-[(trimethylsilyl)ethynyl]-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone (908 mg) in a mixture of acetonitrile (0.9 ml) and THF (1.8 ml). The mixture was stirred at 25-30° C. for one hour, neutralized with 6N HCl, extracted with CHCl3, dried over MgSO4 and concentrated under reduced pressure to give a syrup. The syrup was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (30:70 v/v) to give 6-(5-amino-6-ethynyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (196 mg).

reactant | NaOH | 12N, 0.9 ml | [OH-].[Na+]
reactant | 6-{5-amino-3-phenyl-6-[(trimethylsilyl)ethynyl]-2-pyrazinyl}-2-isopropyl-3(2H)-pyridazinone | 908 mg | NC=1N=C(C(=NC1C#C[Si](C)(C)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C22H25N5OSi
reactant | HCl | 6N | Cl | ClH
solvent | acetonitrile | 0.9 ml | C(C)#N | C2H3N
solvent | THF | 1.8 ml | C1CCOC1 | C4H8O
product | 6-(5-amino-6-ethynyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 196 mg | NC=1N=C(C(=NC1C#C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C19H17N5O
